US06165944
1.8 g (25.9 mmol) of hydroxylamine hydrochloride and 1.5 g (11.0 mmol) of potassium carbonate were added to 5.0 g (18.3 mmol) of methyl 2,4-dichloro-3-(2-oxobut-3-en-4-yl)benzoate in 160 ml of ethanol, and the reaction mixture was admixed with water until a clear solution was obtained. The mixture was heated under reflux for 3 hours and then cooled and the reaction mixture was taken up in 400 ml of water and extracted with ethyl acetate. The combined organic phases were dried and the solvent was removed. Methyl 2,4-dichloro-(2-hydroxyiminobut-3-en-4-yl)benzoate was obtained in quantitative yield.

reactant | hydroxylamine hydrochloride | 25.9 mmol, 1.8 g | Cl.NO
reactant | potassium carbonate | 11.0 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2,4-dichloro-3-(2-oxobut-3-en-4-yl)benzoate | 18.3 mmol, 5.0 g | ClC1=C(C(=O)OC)C=CC(=C1C=CC(C)=O)Cl | C12H10Cl2O3
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | Methyl 2,4-dichloro-(2-hydroxyiminobut-3-en-4-yl)benzoate | quantitative yield | ClC1=C(C(=O)OC)C=CC(=C1C=CC(C)=NO)Cl | C12H11Cl2NO3
